Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1][O:2][C:3](=[C:4][H:5])[C:6]([H:7])([H:8])[H:9]>>[C:6]([H:7])([H:8])[H:9].[O:1][O:2][C:3]#[C:4][H:5],2.1766158205
[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([O:5][C:6]([H:7])=[C:8]([H:9])[H:10])=[C:11]([H:12])[H:13].[H:4],1.50835123472
[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12][H:13].[O:1]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12][H:13],-4.02324127161
[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[H:10]>>[C:5]([H:6])[O:7][C:8]([H:9])[H:10].[O:1][C:2]#[C:3][H:4],4.08739394501
[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:7][H:8].[H:6]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][H:8],-4.80921503666
[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[O:1]=[C:2][C:3]([H:4])([H:5])[H:6]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-3.48208027258
[H:1][C:2]([H:3])=[C:4]([O:5][C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1][C:2]([H:3])=[C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.28254096663
[C:9]([H:10])[O:11][H:12].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]=[C:9](\[H:10])[O:11][H:12],-5.808446147180001
[H:10].[O:1]=[C:2]([H:3])[C@:4]([H:5])([O:6][H:7])[C:8]([H:9])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.363814695299999
[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:9]([H:10])([H:11])[O:12][H:13].[H:8],1.92546311127
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:10][C:11][H:12].[H:9]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]#[C:11][H:12],-4.901463115009999
[H:5].[O:1][C:2]#[C:3][H:4]>>[O:1]=[C:2]=[C:3]([H:4])[H:5],-4.8042221631
[C:5](#[C:10][H:11])[H:12].[H:1][C:2](/[C:3]=[C:6](\[H:7])[O:8][H:9])([H:4])[H:13]>>[H:1][C:2]=[C:3]([H:4])/[C:5](=[C:6](/[H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13],-2.18015428151
[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][H:10]>>[H:5].[O:1]=[C:2]([H:3])[C:4][C:6]([H:7])([H:8])[O:9][H:10],4.922281203380001
[H:1][O:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[C:10]([H:11])([H:12])[H:13].[H:9],1.8506340353
[C:1][C:2]([H:3])([H:4])[C@:5]([H:6])([C:7][O:8][H:9])[O:10][H:11]>>[C:1]=[C:2]([H:3])[C@:5]([H:6])([C:7][O:8][H:9])[O:10][H:11].[H:4],1.77941620106
[C:2](=[O:3])=[C:4]([H:5])[C:6]([H:7])[H:8].[O:1]>>[O:1][C:2](=[O:3])[C:4]([H:5])=[C:6]([H:7])[H:8],-4.3939667809300005
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[C:10]=[C:11]([H:12])[H:13].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9],3.59829213852
[H:1][C:2]([H:3])[O:4][C:5]([O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])[O:4][C:5][O:6][C:7]([H:8])[H:9],3.31067708086
[H:12].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C@@:7]([H:8])([C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.52682619265
[H:4].[O:1]=[C:2]([H:3])[O:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[O:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])=[C:8]([H:9])[H:10],-0.4561517719380001
[C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12].[H:1]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12],-5.95833819333
[C:2](=[O:3])[C:4]([H:5])([H:6])[H:7].[O:1]>>[O:1][C:2](=[O:3])[C:4]([H:5])([H:6])[H:7],-4.62886703943
[H:6].[O:1][O:2][C:3]([H:4])=[C:5]=[C:7]([H:8])[H:9]>>[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[H:9],-3.58671487763
[H:10].[H:1][C:2]#[C:3][C:4]([H:5])([C:6]#[C:7][H:8])[O:9]>>[H:1][C:2]#[C:3][C:4]([H:5])([C:6]#[C:7][H:8])[O:9][H:10],-4.7613145025
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13]>>[C:1]([H:6])([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13].[C:2]([H:3])([H:4])=[C:5],0.588683247481
[C:7]([H:8])([H:9])[C:10](=[O:11])[H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10](=[O:11])[H:12],-3.267843872
[C:4](#[C:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]>>[H:1][O:2][C:3]/[C:4](=[C:5]/[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-0.74884825051
[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])([H:7])[H:8]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[H:8],-1.27964522588
[H:1][C:2][O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9]>>[C:4]([H:5])#[C:6][C:7]([H:8])[H:9].[H:1][C:2]=[O:3],0.28429315545
[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7]>>[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-1.44243896875
